Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
codeine / NSAIDS (Non-Steroidal Anti-Inflammatory Drug)
 
Attending: ___.
 
Chief Complaint:
anemia
 
Major Surgical or Invasive Procedure:
Endoscopy/colonoscopy ___ 

 
History of Present Illness:
Ms. ___ is a ___ yo F with PMH significant for HTN, HLD,
obesity, tobacco use disorder and prior GIB ___ NSAIDs 
presenting
as admission from ___ for asymptomatic anemia. Patient has been
experiencing cough, fatigue and chest pain for the past two
months, for which she recently underwent stress ECHO that was
positive for ECG evidence of ischemia. She was thus scheduled 
for
coronary angiogram earlier on the day prior to admission though
the procedure was aborted after she was found to have a Hgb
5.___.5. She was consequently brought down to the ___ and has
received 3U PRBC.

She has a history of GIB associated with NSAID use. At that 
time,
she endorsed having melanic stools and was hospitalized for a
transfusion. Since then, she has avoided NSAIDS. She has noted
that a few of her stools over the past 2 months have been dark,
but never black to the extent they were in the past. She denies
any hematochezia, hematemesis, or hematuria. 

Regarding her chest pain, she has noted increasing substernal
tightness in her chest on exertion. This has progressed to the
extent that she has been limited walking up one flight of stairs
before her chest discomfort sets in. The discomfort does not
radiate, and is occasionally associated with SOB. She denies any
n/v or diaphoresis.

In the CDAC:

Initial vital signs were notable for:
___ 1844 Temp: 97.6 PO BP: 102/49 HR: 98 RR: 18 O2 sat: 
100%
O2 delivery: RA Dyspnea: 0 RASS: 0 Pain Score: ___ 

Exam notable for:
Heart rate: 92 bpm, blood pressure , respiratory rate 12
Appears comfortable, in no distress.  Mucous membranes moist.
Oropharhynx clear.  No cervical adenopathy.  JVP 7-8cm, Full
carotid upstrokes without bruits.  Clear lungs bilaterally.  
Good
effort. Regular rhythm, normal S1 and physiologically split S2.
No murmurs, rubs or  gallops. Soft, non-tender abdomen without
palpable hepatosplenomegaly. no ___. Strong/symmetric peripheral
pulses. No xanthalasma or stasis dermatitis. Mood and affect
appropriate. 

Labs were notable for:
Hgb 5.7, MCV 63
Iron 12, Ferritin 3.6, TIBC 477

Patient was given:
3U PRBC

Consults: GI

Vitals on transfer: ___ 1700 Temp: 98 PO BP: 124/60 L
Sitting HR: 75 RR: 18 O2 sat: 98% O2 delivery: RA 

Upon arrival to the floor, she is feeling much better since
having received the 3 units of blood. Notably, she was able to
walk down the hall without experiencing any fatigue or shortness
of breath, which is better than her recent baseline. She denies
any chest pain, palpitations, f/c, diarrhea or constipation.

 
Past Medical History:
HTN
HLD
BMI >30
T2DM
NSAID induced GIB
Presumed CAD (+EKG on stress)

 
Social History:
___
Family History:
Sister - ___ Cancer
HTN runs in family
No history of IBD, colon cancer or other GI malignancies aside
from pancreatic cancer
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
========================
VITALS: REVIEWED IN OMR
GENERAL: Alert and interactive. In no acute distress.
HEENT: Sclera pale
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: No focal deficits. AAOx3

DISCHARGE PHYSICAL EXAM:
=======================
24 HR Data (last updated ___ @ 006)
    Temp: 98.0 (Tm 98.9), BP: 111/67 (111-160/58-74), HR: 72
(62-76), RR: 18 (___), O2 sat: 97% (96-98), O2 delivery: Ra  
GENERAL: Alert and interactive. In no acute distress.
HEENT: Sclera pale
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: No focal deficits. AAOx3
 
Pertinent Results:
ADMISSION LABS:
===============

___ 12:55PM BLOOD WBC-7.4 RBC-3.56* Hgb-5.7* Hct-22.5* 
MCV-63* MCH-16.0* MCHC-25.3* RDW-21.4* RDWSD-47.1* Plt ___
___ 12:55PM BLOOD ___
___ 12:55PM BLOOD Creat-0.8 K-4.4

RELEVANT LABS:
==============

___ 12:55PM BLOOD Iron-12___ 12:55PM BLOOD calTIBC-490* VitB12-537 Ferritn-3.5* 
TRF-377*
___ 01:23PM BLOOD Folate-16 Hapto-169
___ 01:23PM BLOOD IgA-107
___ 01:23PM BLOOD tTG-IgA-10
___ 01:23PM BLOOD Ret Aut-0.8 Abs Ret-0.03

IMAGING:
========
Colonoscopy ___:
- Right colon was carefully evaluated in retroflexion and in 
forward view
- Moderate diverticulosis of the descrending colon and sigmoid 
colon
- otherwise normal colonoscopy 

EGD ___:

- Normal mucosa in the whole esophagus
- erythema in the antrum
- normal mucosa in the whole examined duodenum

DISCHARGE LABS:
===============

___ 10:15AM BLOOD WBC-6.3 RBC-4.64 Hgb-8.5* Hct-33.0* 
MCV-71* MCH-18.3* MCHC-25.8* RDW-26.7* RDWSD-65.5* Plt ___
___ 10:15AM BLOOD Glucose-139* UreaN-14 Creat-0.8 Na-143 
K-4.5 Cl-105 HCO3-27 AnGap-___RIEF HOSPITAL COURSE:
======================
___ yo F with PMH HTN, HLD, obesity, tobacco use disorder and 
prior GIB on NSAIDs presenting as admission from ___ for new 
onset iron deficiency anemia. Was planned for cath iso positive 
stress test, but was deferred given significant iron deficiency 
anemia. Had an EGD and colonoscopy without identified source of 
bleeding. Will plan for further outpatient workup including 
likely capsule endoscopy. 

ACUTE ISSUES:
=============
# Iron Deficiency Anemia:
Patient presented with fatigue, dizziness, and shortness of 
breath over the past 2 months. She was planned for cardiac cath 
given evidence of ischemia on EKG in context of stress ECHO 
___. However, labs on planned admission found a hemoglobin 
of 5.7 with Iron 12, Ferritin 3.6 on admission for cath on 
___. Has previous history of NSAID induced GIB, though denies 
any active bleeding or melenic stools. She received 3 U PRBC 
with appropriate bump in her hgb from 5.7 to 8.7. She had a EGD 
and ___ which did not show a source of bleeding. Given her 
stability, she was planned to follow up with GI for capsule 
endoscopy to further evaluate GI blood loss. Denies history of 
dietary restrictions to account for iron deficiency (not vegan 
or vegetarian), or other sources of bleeding (no recent melena 
or hematochezia, no hematemesis, no vaginal bleeding). No other 
cytopenias to suggest a bone marrow pathology. Negative 
anti-tissue transglutaminase with normal IgA making celiac 
disease less likely. She was discharged on pantoprazole 40mg 
daily given continued aspirin use and history of gastritis. Also 
discharged on ferrous sulfate 325mg every other day. 

# Suspected CAD:
Given her risk factors and chronic chest tightness/discomfort, 
she had stress ECHO after recommendations from PCP. Was found to 
have ischemia on ECG during stress test for which she was going 
for cardiac catheterization day prior to admission. Her cath was 
deferred given severe anemia. Plan to follow up with cardiology 
to further discuss cath. Will likely still need diagnostic cath 
given she had ischemic changes with the "stress" of severe 
anemia, suggesting an underlying lesion. She was discharged on 
aspirin 81mg daily, atorvastatin 20mg daily. Beta blocker was 
discontinued prior to admission due to dizziness, but may be 
able to be restarted given improvement transfusions for anemia 
(will defer to cardiology)

CHRONIC ISSUES:
===============
# HTN:
Continued Lisinopril 10mg

# HLD:
Continued Atorvastatin 20mg. Discharging on enteric-coated 
aspirin 

# Tobacco Use Disorder
Reporting ___ cigarettes per day. Encourage smoking cessation.

TRANSITIONAL ISSUES:
====================
Discharge Hgb: 8.5

[ ] Will follow up with GI for capsule endoscopy appointment, 
also has scheduled appointment 
[ ] continue to monitor hemoglobin as outpatient; reticulocytes 
[ ] repeat iron studies on iron supplementation. Started ferrous 
sulfate every other day
[ ] Follow up with cardiology to further assess need for cath 
and timing.
[ ] CAD medications: restart beta blocker as tolerated by 
dizziness; continue moderate intensity/ASA
[ ] Continuing PPI 40mg daily given continued aspiring use and 
history of gastritis 
enteric coated aspirin on discharge
[ ] Please check CBC at next appointment to ensure stability 

#CODE: Full, presumed
#CONTACT:Proxy name: ___ 
Relationship: sister Phone: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen ___ (diphenhydrAMINE-acetaminophen) ___ mg 
oral QHS:PRN 
2. Lisinopril 10 mg PO DAILY 
3. doxylamine succinate 25 mg oral QHS:PRN 
4. Atorvastatin 20 mg PO QPM 
5. Aspirin 81 mg PO DAILY 
6. albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN 

 
Discharge Medications:
1.  Ferrous Sulfate 325 mg PO EVERY OTHER DAY 
RX *ferrous sulfate [iron] 325 mg (65 mg iron) 1 tablet(s) by 
mouth every other day Disp #*30 Tablet Refills:*0 
2.  Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  Acetaminophen ___ (diphenhydrAMINE-acetaminophen) ___ mg 
oral QHS:PRN  
4.  albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN  
5.  Aspirin EC 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
6.  Atorvastatin 20 mg PO QPM  
7.  doxylamine succinate 25 mg oral QHS:PRN  
8.  Lisinopril 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
==================
Iron deficiency anemia

SECONDARY DIAGNOSIS
=====================
Hypertension
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted to the Cardiac Direct Access (CDAc) Unit 
because you were severely anemic. Because of this your scheduled 
cardiac catheterization was cancelled. 

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- We gave you a blood transfusion with 3 units of blood which 
you responded very well to 
- The GI doctors saw ___ and ___ had a colonoscopy and EGD which 
did not show a source of bleeding. 

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Take all of your medications as prescribed (listed below)  
- Follow up with your doctors as listed below in particular your 
gastroenterologists who are planning to do a capsule endoscopy 
to look for bleeding in your small intestine
- You will need to follow up with cardiology for reconsideration 
of possible cardiac catheterization with concern for heart 
disease given your chest pain 
- Seek medical attention if you have new or concerning symptoms 
or if you develop swelling in your legs, abdominal distention, 
shortness of breath at night, or chest pain.  
 
If you have any urgent questions that are related to your 
recovery from your procedure or are experiencing any symptoms 
that are concerning to you, please call the ___ heartline at 
___ to speak to a cardiologist or cardiac nurse 
practitioner.  

It was a pleasure participating in your care. We wish you the 
best!
  
Your ___ Care Team  
 
Followup Instructions:
___